US08492582B2
Potassium carbonate (1.6 g) and 1,2-dibromoethane (2.6 mL) were added to a N,N-dimethylformamide (5.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-4-hydroxybenzamido)-4-phenylbenzoate (0.29 g), followed by stirring at 120° C. for 1 hour and 45 minutes. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-91% hexane/ethyl acetate] to obtain 0.19 g of tert-butyl 2-(2-(benzyloxy)-4-(2-bromoethoxy)benzamido)-4-phenylbenzoate as a white solid.

reactant | Potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 2.6 mL | BrCCBr | C2H4Br2
reactant | tert-butyl 2-(2-(benzyloxy)-4-hydroxybenzamido)-4-phenylbenzoate | 0.29 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)O | C31H29NO5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-(2-(benzyloxy)-4-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 0.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OCCBr | C33H32BrNO5
